US06316663B1
2-[2′-(2,6-Dimethylanilino)phenyl]-2-methyl-1,3-dioxolane (2b-1)
A mixture of 2-(2′-bromophenyl)-2-methyl-1,3-dioxolane (362 mg, 1.49 mmol), 2,6-dimethylaniline(189 mg, 1.56 mmol), NaOtBu (172 mg, 1.79 mmol), Pd(dba)2 (17 mg, 0.03 mmol), ligand A (21 mg, 0.06 mmol) in toluene (4 mL) was heated to 105° C. for 4.5 hours. The reaction was cooled to room temperature, taken up in diethyl ether (125 mL), washed with water (2×30 mL) and brine (30 mL), dried over MgSO4, filtered and concentrated under vacuum. The crude product was purified by column chromatography on silica gel using hexane (or hexanes: ethyl acetate) as the eluent to afford compound 2b-1, after drying under vacuum, as an off-white solid (yield: 391 mg, 93%) 1H NMR (CDCl3): δ7.41 (dd, 1H, J=7.8, 1.8 Hz, ArH), 7.13-6.99 (m, 4H, ArH), 6.70 (dt, 1H, J=7.5, 1.2 Hz, ArH), 6.15 (dd, 1H, J=7.8, 0.9, ArH), 4.12 (m, 2H, O—CH—CH—O), 3.93 (m, 2H, O—CH—CH—O), 2.18 (s, 6H, Ar—CH3), 1.84 (s, 3H, CH3). 13C NMR (CDCl3): δ143.5, 138.6, 135.2, 129.1, 128.5, 126.3, 125.6, 125.2, 117.3, 112.6, 109.8, 64.1, 24.1, 18.3. Anal. for C18H21NO2; Calcd: C, 76.29, H, 7.47; N, 4.94; Found: C, 75.86; H, 7.46; N, 4.89.

reactant | 2-(2′-bromophenyl)-2-methyl-1,3-dioxolane | 1.49 mmol, 362 mg | BrC1=C(C=CC=C1)C1(OCCO1)C | C10H11BrO2
reactant | 2,6-dimethylaniline | 1.56 mmol, 189 mg | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | NaOtBu | 1.79 mmol, 172 mg | CC(C)(C)[O-].[Na+]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 125 mL | C(C)OCC | C4H10O
catalyst | Pd(dba)2 | 0.03 mmol, 17 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | 2-[2′-(2,6-Dimethylanilino)phenyl]-2-methyl-1,3-dioxolane | CC1=C(NC2=C(C=CC=C2)C2(OCCO2)C)C(=CC=C1)C | C18H21NO2
